US07517992B2
c) N-[(1S,1aR,7bR)-4,7-difluoro-1,1a,2,7b-tetrahydro-cyclopropa[c]chromen-1-yl]-N′-[5-(4-fluorobenzoyl)-2-pyridinyl]urea
(1S,1aR,7bS)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromene-1-carboxylic acid (40 mg, 0.18 mmol, ˜95% ee) was mixed with toluene (1 ml), triethylamine (1.1 eq), (6-amino-3-pyridinyl)(4-fluorophenyl)methanone (1.1 eq), DPPA (1.1 eq) and bubbled with argon. The reaction mixture was then heated at stirring at 110° C. for 3 h under in a closed vial. The reaction mixture was concentrated by rotary evaporation and purified by column chromatography on silica (30 g, ethylacetate/hexane 1:4). The last fraction collected contained desired product together with starting aminopyridine (25%, NMR data). The mixture was dissolved in methylene chloride and washed with 1N HCl, water and brine. Organic layer was dried over magnesium sulphate. Concentration gave pure product as white powder (30 mg, yield 39%).

reactant | (1S,1aR,7bS)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromene-1-carboxylic acid | 0.18 mmol, 40 mg | FC1=CC=C(C=2[C@H]3[C@@H](COC12)[C@H]3C(=O)O)F | C11H8F2O3
reactant | triethylamine | 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | (6-amino-3-pyridinyl)(4-fluorophenyl)methanone | 1.1 eq | NC1=CC=C(C=N1)C(=O)C1=CC=C(C=C1)F | C12H9FN2O
reactant | DPPA | 1.1 eq | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | N-[(1S,1aR,7bR)-4,7-difluoro-1,1a,2,7b-tetrahydro-cyclopropa[c]chromen-1-yl]-N′-[5-(4-fluorobenzoyl)-2-pyridinyl]urea | 30 mg, yield 39% | FC1=CC=C(C=2[C@H]3[C@@H](COC12)[C@H]3NC(=O)NC3=NC=C(C=C3)C(C3=CC=C(C=C3)F)=O)F | C23H16F3N3O3
